.SUBCKT LT1227     3 2 7 4 6
*
Q2A 4 3 10 QPI 0.5
Q3A 11 10 200 QNI
Q4A 11 11 7 QPI
Q5A 9 11 7 QPI
Q6A 12 11 7 QPI 2
Q7A 4 9 12 QPI
Q8A 7 12 13 QNI 10
RSCA 13 6 12
IBA 7 10 DC 325U
RBA 7 10 73K
DIA 10 7 DCC 3
*
Q2B 7 3 110 QNI 0.5
Q3B 111 110 200 QPI
Q4B 111 111 4 QNI
Q5B 9 111 4 QNI
Q6B 112 111 4 QNI 2
Q7B 7 9 112 QNI
Q8B 4 112 113 QPI 10
RSCB 6 113  12
IBB 110 4 DC 325U
RBB 110 4 73K
DIB 4 110 DCC 5
*
CM1 7 11 10PF
CM2 111 4 10PF
*
RIB 7 11 75K
RC 2 200 75
R9 9 0 250K
D1 9 6 DC
D2 6 9 DC
D3 9 7 DCC
D4 4 9 DCC
*
.MODEL DC D
.MODEL DCC D CJO=3PF VJ=0.62 M=0.44 
*
.MODEL QNI NPN TF=225P
.MODEL QPI PNP TF=225P
*
.ENDS LT1227
